* C:\Users\Miguel\Dropbox\FIUBA\dce\dce-pfinal\simulaciones\salida\salida.asc
Q1 V2+ N005 N006 0 BC547B
Q2 N004 N006 Vo 0 BC547B
Q3 V2+ N003 N004 0 BC547B
Q4 V2+ N002 N003 0 BC547B
Q5 N011 N009 Vo 0 BC557B
Q6 V2- N010 N009 0 BC557B
Q7 V2- N012 N011 0 BC557B
Q8 V2- N014 N012 0 BC557B
R3 N006 N009 200
R4 Vo 0 8
R5 N011 N012 100
R6 N003 N004 100
D1 V1+ N004 1N4148
D2 N011 V1- 1N4148
D3 N014 N013 1N4148
D4 N001 N002 1N4148
V1 N010 N013 3.6
V2 Vi N010 1.45
V3 N005 Vi 1.45
V4 N001 N005 3.6
V5 Vi 0 SINE(0 {Vin} {fin})
V6 V1+ 0 {V1}
V7 0 V1- {V1}
V8 V2+ 0 {V2}
V9 0 V2- {V2}
.model D D
.lib C:\Users\Miguel\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Miguel\Documents\LTspiceXVII\lib\cmp\standard.bjt
.param V1=20 V2=30
.param Vin=24 fin=10k
.tran 0 {(N_cycles_wait+N_cycles_show)/fin} {N_cycles_wait/fin} {1/(fin*10e3)}
.param N_cycles_show=10 N_cycles_wait=10
;op 0 {(N_cycles_wait+N_cycles_show)/fin} {N_cycles_wait/fin} {1/(fin*10e3)}
.four {fin} 9 {N_cycles_show} V(Vo)
.OPTIONS plotwinsize=0 numdgt=15
.backanno
.end
